US06228868B1
benzyl 1-methyl-oxindole-5-carboxylate
A solution of 5-bromo-1-methyl oxindole (3.75 g, 16.6 mmol) and triethylamine (3.48 mL) in THF (40 mL) was treated with benzyl alcohol (2.58 mL) and PdCl2(dppf) (300 mg), stirred under carbon monoxide (680 psi) at 130° C. for 16 hours, depressurized, filtered through diatomaceous earth (Celite®), and concentrated. The concentrate was purified on silica gel with 30% ethyl acetate/hexanes to provide 2.36 g of the desired product.

reactant | 5-bromo-1-methyl oxindole | 16.6 mmol, 3.75 g | BrC=1C=C2CC(N(C2=CC1)C)=O | C9H8BrNO
reactant | triethylamine | 3.48 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl alcohol | 2.58 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | THF | 40 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(dppf) | 300 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | benzyl 1-methyl-oxindole-5-carboxylate | 2.36 g | CN1C(CC2=CC(=CC=C12)C(=O)OCC1=CC=CC=C1)=O | C17H15NO3
